US05212320
1N aqueous solution of sodium hydroxide (9 ml) was added to a solution of methyl 3-(10,11-dihydro-5H-dibenz[b,f]azepin-5-ylmethyl)benzoate (1.06 g) in a mixture of 1,4-dioxane (25 ml) and methanol (15 ml) at 25° C. The mixture was stirred at 25° C. for 3 hours, and then at 50° C. for 30 minutes. After evaporation of the solvent, the residue was partitioned between ethyl acetate and 0.1N hydrochloric acid. The organic layer was separated, washed with water and brine, dried over magnesium sulfate, and evaporated to give 3-(10,11-dihydro-5H-dibenz[b,f]azepin-5-ylmethyl)benzoic acid (1.01 g) as powder.

reactant | sodium hydroxide | 9 ml | [OH-].[Na+]
reactant | methyl 3-(10,11-dihydro-5H-dibenz[b,f]azepin-5-ylmethyl)benzoate | 1.06 g | C1=CC=CC=2N(C3=C(CCC21)C=CC=C3)CC=3C=C(C(=O)OC)C=CC3 | C23H21NO2
solvent | 1,4-dioxane | 25 ml | O1CCOCC1 | C4H8O2
solvent | methanol | 15 ml | CO | CH4O
product | 3-(10,11-dihydro-5H-dibenz[b,f]azepin-5-ylmethyl)benzoic acid | 1.01 g | C1=CC=CC=2N(C3=C(CCC21)C=CC=C3)CC=3C=C(C(=O)O)C=CC3 | C22H19NO2
